Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
aspirin / lamotrigine
 
Attending: ___
 
Chief Complaint:
Altered mental status.
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
___ is an ___ year old man with history of ?CVA, 
aneurysm s/p clipping, and brain mass s/p right frontal 
lobectomy and residual seizure disorder who presents with sudden 
onset dysarthria.

History is limited from the patient as he is unable to provide 
meaningful history at this time.  History was gathered from his 
nursing home at ___, as well as corroboration with sister 
___.  His healthcare proxy, which is his brother ___, was 
unable to be reached at this time.

Per the staff at ___, last known well was 17.  This 
evening.  He is a has been feeding him at the dining room.  They 
had to step out for a few minutes, but when they came back and, 
they found that he was covered in vomit, not talking despite his 
name being called.  This is a sharp departure from his baseline 
minutes prior.  He was noted to have a finger stick of 111.  An 
ambulance was called, and he was transferred to ___.  Of 
note, during this time, he was noted to be very agitated but not 
incontinent to urine or stool.  Of note, there was no noted 
seizure activity, although per his sister, his seizures usually 
appear to be total body stiffening lasting several minutes,
usually leading to a fall.  The frequency is unknown.  He has 
had several falls from seizures in the past, leading to 
fractures.  Otherwise, no sick symptoms, including recent 
fevers, runny nose, URI symptoms, urinary issues, diarrhea 
vomiting.

At ___, initial NIHSS 15 with points for LOC 1a 2, 1b 
2, 1c 1, left facial paresis, left leg drift, 2 points for best 
language, 2 points for dysarthria, and 1 point for extinction. 
Tele stroke activated; however, his symptoms improved 
dramatically while in ED, and therefore tPA was not 
administered. CTA with no large vessel occlusion, but with a 
plaque in the right common carotid. Phenytoin level noted to be 
therapeutic on initial
evaluation. 

Transferred to ___ for TIA versus seizure workup. In ED, he 
was noted to be afebrile, with NIHSS 2 for left lower extremity 
drift and dysarthria.  
 

 
Past Medical History:
Right frontal mass status post resection in his ___, with
resulting epilepsy.
Aneurysm s/p coiling
No clear history of stroke despite chart history, per sister
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
========================
ADMISSION PHYSICAL EXAM
========================
PHYSICAL EXAMINATION
Vitals: T 98.2  HR 94  BP 160/92  RR 20  97% RA 
General:  NAD, awake
HEENT: NCAT,  no oropharyngeal lesions, neck supple
___: RRR, no M/R/G
Pulmonary: CTAB, no crackles or wheezes
Abdomen: Soft, NT, ND, +BS, no guarding
Extremities: Warm. Bilateral lower extremities with old
fractures, some with apparent malunion

Neurologic Examination:
Mental status: 
Awake, alert, oriented to himself, month, year, but not 
location.  Unable to relate history.  He is inattentive, unable 
to name days of the week backwards.  There is significantly 
delayed speech latencies, but is able to follow axial and 
appendicular commands.  Language appears to be fluent, with 
intact repetition.  There is mild dysarthria, with normal 
prosody.  No evidence of left right confusion or left 
hemineglect.

Cranial Nerves: 
PERRL 3->2 brisk. VF full to finger wriggle. EOMI, no nystagmus. 
V1-V3 without deficits to light touch bilaterally. Delayed 
activation of left face. Hearing intact to finger rub 
bilaterally.  Palate elevation symmetric. SCM/Trapezius strength 
___ bilaterally. Tongue midline.

Motor:  
Decreased bulk, with paratonia throughout. No drift. Mild 
postural tremor L>R.  Significant motor impersistence, within 
these limitations, there is no drift with the arms or legs 
bilaterally.  There was difficulty with confrontational strength 
testing, within these limitations, there is no clear motor 
asymmetry in the upper extremities.  There is delayed activation 
of the right leg, but he is able to sustain antigravity effort 
for more than 5 seconds.  There is mild, 4+ weakness in the IP's 
bilaterally.  Hamstrings are also 4+ bilaterally.  His ankles 
exhibit poor tone, with dorsiflexion being 3s bilaterally and 
plantar flexion being fours bilaterally.
 
Reflexes: 
Diminished throughout.  Left toe is tonically upgoing.

Sensory: 
No deficits to light touch, pin. Inattentive for proprioceptive 
testing. No extinction to DSS.

Coordination: 
No dysmetria with finger to nose testing bilaterally. Good speed 
and intact cadence with rapid alternating movements.

Gait: 
Deferred

========================
DISCHARGE PHYSICAL EXAM:
========================
Vitals: 
24 HR Data (last updated ___ @ 1202)
Temp: 98.3 (Tm 98.8)
BP: 135/73 (113-145/63-75)
HR: 81 (79-84)
RR: 18 (___)
O2 sat: 93% (91-95), O2 delivery: Ra  

Vitals: 
24 HR Data (last updated ___ @ 1611)
Temp: 98.4 (Tm 98.4)
BP: 120/67 (108-155/61-77)
HR: 80 (68-80)
RR: 18 (___)
O2 sat: 91% (90-98) O2 delivery: Ra  

General physical examination: 
General: Comfortable and in no distress 
Head: No irritation/exudate from eyes, nose, throat 
Neck: Supple with no pain to flexion or extension 
Cardio: Regular rate and rhythm, warm, no peripheral edema 
Lungs: Unlabored breathing 
Abdomen: Soft, non tender, non distended 
Skin: No overt rashes or lesions 

Neurologic examination: 
Mental status: 
Patient today greeted examiner on arrival.  He clearly states 
his
name.  He knows that he is in a hospital.  He knows the month 
and
the year.  He was able to provide days of the week backwards
without error.  His naming is intact, he even referred to my
knuckle as a joint. He was able to correctly repeat a phrase 
that
was longer than 10 words.  Left right differentiation is intact. 

He can follow at least two step commands. 

Cranial nerves: 
PERRL 3-2 mm. EOMI. Facial sensation symmetric.  Left NLFF, but
symmetric activation of smile. He has symmetric rise of palate
and midline uvula.  SCM ___ bilaterally.  Tongue protrudes to
midline. 

Motor examination:
Patient with cupping and left sided pronator drift.  Left leg
rests in eversion.  
  Delt Bic Tri WrE FFl  FE  IO  IP   Quad  Ham TA   Gastroc 
L  5    ___   5    ___     5    4   4      4    
R  5    ___   5    ___     5    5   5      5    

Coordination: 
No dysmetria with FNF  
 
Pertinent Results:
ADMISSION LABS:
___ 10:49PM BLOOD WBC-12.3* RBC-3.58* Hgb-12.2* Hct-36.0* 
MCV-101* MCH-34.1* MCHC-33.9 RDW-12.9 RDWSD-47.8* Plt ___
___ 10:49PM BLOOD Glucose-121* UreaN-21* Creat-1.2 Na-135 
K-4.5 Cl-95* HCO3-28 AnGap-12
___ 10:49PM BLOOD ALT-13 AST-15 AlkPhos-156* TotBili-0.2

DISCHARGE LABS:
___ 04:45AM BLOOD WBC-7.2 RBC-3.10* Hgb-10.5* Hct-31.8* 
MCV-103* MCH-33.9* MCHC-33.0 RDW-13.4 RDWSD-50.9* Plt ___
___ 04:45AM BLOOD Glucose-121* UreaN-18 Creat-1.1 Na-139 
K-4.5 Cl-104 HCO3-26 AnGap-9*

Pertinent labs: 
___ 05:00AM BLOOD VitB12-783 Folate-7
___:20AM BLOOD %HbA1c-5.2 eAG-103
___ 04:20AM BLOOD Triglyc-116 HDL-51 CHOL/HD-3.8 
LDLcalc-121
___ 04:20AM BLOOD TSH-5.7*
___ 05:00AM BLOOD Free T4-0.8*
___ 05:00AM BLOOD 25VitD-42
___ 05:00AM BLOOD Phenoba-34.0 Phenyto-16.4

Imaging:
___ ___:
1. No acute intracranial hemorrhage.  No evidence of acute major 
vascular 
territorial infarction. 
2. Status post right craniotomy and 2 surgical clips in the 
region of the 
anterior interhemispheric fissure.  Right greater than left 
anterior frontal encephalomalacia and gliosis. 
3. Fluid in the right maxillary sinus and bilateral ethmoid air 
cells, which may be secondary to prolonged supine positioning, 
but acute sinusitis cannot be excluded in an appropriate 
clinical setting.  Thickening and sclerosis of the right 
maxillary sinus wall indicates underlying chronic inflammation. 

 
Brief Hospital Course:
Patient is an ___ year old right-handed man with past medical 
history most pertinent for brain mass status post right frontal 
lobectomy in his twenties, remote unspecified aneurysm status 
post clipping, and seizure disorder who was brought to the 
hospital because patient acutely developed altered mental status 
and dysarthria. 

There was initial concern that patient might have had a stroke, 
but his symptoms rapidly improved and he returned to baseline. 
Furthermore, if a stroke was present, it would most likely 
appear on repeat CT 24 hours after the first one, but no areas 
of ischemia were visualized. Therefore, we favor a diagnosis of 
seizure. The reason for breakthrough seizure is unknown as his 
phenytoin level was therapeutic and no infection or toxic 
metabolic process was identified. We increased the dose of the 
patient's phenytoin to 150 mg in the morning and 250 mg in the 
evening, but will keep his primidone at current dose. Patient 
will need to come into our outpatient laboratory on ___ to 
have his phenytoin level drawn to ensure that this increase in 
dose has not led to his level being toxic. Patient will need a 
trough so will need to come in before his morning dose. Patient 
will follow up for this hospitalization in neurology clinic 
___ at 4:00 ___. 

While we do not believe that patient had stroke, we could not 
perform an MRI to further investigate given his history of 
aneurysm clipping. We tried to obtain more information regarding 
this aneurysm and its clipping from his PCP and family, but no 
one could provide further history. Patient's repeat ___ on 
discharge without evidence for stroke. He did have ___ cisterna 
magna and post-surgical changes. We did not start him on aspirin 
because of a reported allergy and did not start him on a statin, 
despite LDL being elevated, because of his age. We would like to 
ensure he does not have paroxysmal atrial fibrillation and have 
therefore scheduled for him to be monitored with ___ of hearts 
monitor. 

Patient found to have elevated TSH at 5.7 and free T4 of 0.8. He 
was started on levothyroxine 25 mcg daily. 

Patient's blood pressure was running alittle high with systolic 
blood pressure persistently in the 150 to 160 range. Therefore, 
he was started on amlodipine 2.5 mg daily. 

Patient has history of asthma and throughout admission was noted 
to have intermittent wheezing. He takes Advair 100-50 twice 
daily, but might benefit from additional medication. He would 
likely benefit from evaluation by his primary physician. 

Transitional issues:
-Phenytoin level; monitor for toxidrome given increase in 
phenytoin dose and risk of saturation followed by zero-order 
kinetics
-Nursing concerned that he is coughing while eating, he should 
be supervised for all meals and perhaps be reassessed for 
appropriate diet. 
-Finalized EEG reports pending
-Holter monitor; if Holter raises concern for arrhythmia, could 
consider Echo
-Started on levothyroxine 25 mcg daily, should have repeat TSH 
drawn in 2 months to determine if appropriately dosed. 
-Asthma regimen as above
-Monitor LDL levels; discuss if statin within goals of care
-Chest x-ray with mild vascular congestion, atelectasis
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. PrimiDONE 250 mg PO BID 
2. Phenytoin Infatab 150 mg PO QAM 
3. Phenytoin Infatab 200 mg PO QHS 
4. Senna 17.2 mg PO QHS 
5. Bisacodyl 10 mg PO DAILY:PRN Constipation - First Line 
6. Docusate Sodium 100 mg PO BID 
7. Cyanocobalamin 100 mcg PO DAILY 
8. Ranitidine 150 mg PO BID 
9. Lactulose 30 mL PO BID 
10. Magnesium Oxide 400 mg PO DAILY 
11. Polyethylene Glycol 17 g PO DAILY 
12. Calcium Carbonate 500 mg PO DAILY 
13. Fluticasone-Salmeterol Diskus (100/50) 1 INH IH BID 

 
Discharge Medications:
1.  amLODIPine 2.5 mg PO DAILY 
RX *amlodipine 2.5 mg 1 tablet(s) by mouth Daily Disp #*30 
Tablet Refills:*6 
2.  Levothyroxine Sodium 25 mcg PO DAILY 
RX *levothyroxine 25 mcg 1 tablet(s) by mouth Daily Disp #*30 
Tablet Refills:*6 
3.  Phenytoin Infatab 250 mg PO QPM 
RX *phenytoin 50 mg 5 tablet(s) by mouth QPM Disp #*150 Tablet 
Refills:*6 
4.  Bisacodyl 10 mg PO DAILY:PRN Constipation - First Line  
5.  Calcium Carbonate 500 mg PO DAILY  
6.  Cyanocobalamin 100 mcg PO DAILY  
7.  Docusate Sodium 100 mg PO BID  
8.  Fluticasone-Salmeterol Diskus (100/50) 1 INH IH BID  
9.  Lactulose 30 mL PO BID  
10.  Magnesium Oxide 400 mg PO DAILY  
11.  Phenytoin Infatab 150 mg PO QAM  
12.  Polyethylene Glycol 17 g PO DAILY  
13.  PrimiDONE 250 mg PO BID  
14.  Ranitidine 150 mg PO BID  
15.  Senna 17.2 mg PO QHS  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Seizure

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___, 

You were brought to the hospital because the nursing staff at 
your nursing home noted that you were not speaking and 
responding as you normally do. We think that you had a seizure.  


We will continue you on your phenytoin and primidone to manage 
your seizures, but will change your phenytoin dose to 150 mg in 
the morning and 250 mg in the evening.  We would like for you to 
come to our outpatient lab on ___ to have your phenytoin level 
drawn (address below).  Please come to have this study drawn 
before you take your morning dose. This study is to ensure that 
the phenytoin is at a therapeutic level. We will follow up with 
you in neurology clinic ___ to ensure that this regimen is 
providing effective management. 

Although it more likely that you had a seizure rather than a 
stroke, we would like to make sure that you do not have an 
abnormal heart rhythm that could predispose you to stroke. 
Therefore, we have scheduled for you to be fitted with a heart 
monitor. This monitor will need to be worn for two weeks.

We have started you on levothyroxine 25 mcg daily because your 
thyroid is functioning alittle below normal and amlodipine 2.5 
mg daily because your blood pressure has been high. 

Thank you for allowing us to care for you, 
___ Neurology Team 

 
Followup Instructions:
___